* NGSPICE file created from ip_pixel_nd2ps_parax.ext - technology: gf180mcuD

.subckt ip_pixel_nd2ps_parax vsubs vdd reset cl read
X0 siminj reset vdd vsubs.t0 nfet_06v0 ad=0.2196p pd=2.04u as=0.2196p ps=2.04u w=0.3u l=1.3u
X1 a_1048_n1526# siminj vdd vsubs.t4 nfet_06v0 ad=1.54p pd=7.88u as=1.54p ps=7.88u w=3.5u l=1.9u
D0 vsubs.t2 siminj diode_nd2ps_06v0 pj=54u area=0.16125n
X2 a_1048_n1526# read cl vsubs.t1 nfet_06v0 ad=0.2196p pd=2.04u as=0.2196p ps=2.04u w=0.3u l=0.7u
R0 vsubs.t0 vsubs.t4 617.5
R1 vsubs.t4 vsubs.t1 576.333
R2 vsubs.n0 vsubs.t1 253.844
R3 vsubs.t2 vsubs.t0 166.833
R4 vsubs.n0 vsubs.t2 4.66812
R5 vsubs vsubs.n0 2.1648
C0 read siminj 0.20168f
C1 reset cl 0.2527f
C2 reset vdd 0.04378f
C3 cl a_1048_n1526# 0.01985f
C4 vdd a_1048_n1526# 0.04592f
C5 cl siminj 0.24513f
C6 vdd siminj 0.45333f
C7 reset a_1048_n1526# 0.02125f
C8 read cl 0.14846f
C9 read vdd 0.11513f
C10 reset siminj 0.76671f
C11 reset read 0.15609f
C12 siminj a_1048_n1526# 0.27877f
C13 read a_1048_n1526# 0.00817f
C14 cl vdd 0.07948f
C15 vdd vsubs 2.8543f
C16 cl vsubs 1.3797f
C17 a_1048_n1526# vsubs 1.56524f
.ends

